US05411972
801 mg of {1-(4-bromobenzoyl)-4-(2-hydroxyphenyl)-4-hydroxypiperidine was stirred for 9 hours at the ambient temperature of 100° C. in the presence of 1.20 g (8.68 mmol) of potassium carbonate in 4.00 g (20.5 ml) of ethylα-bromoisobutyrate. After completion of the reaction, The reaction mixture was cooled, and water was added thereto, followed by extraction with chloroform. Subsequently, the extract was dried over anhydrous sodium sulfate. Chloroform and the remained ethyl α-bromoisobutyrate was distilled off under reduced pressure to obtain 902 mg (86.4%) of ethyl 3-{1-(4-bromobenzoyl)-4-hydroxypiperidin-4-yl}α,α-dimethylphenoxyacetate.

reactant | 1-(4-bromobenzoyl)-4-(2-hydroxyphenyl)-4-hydroxypiperidine | 801 mg | BrC1=CC=C(C(=O)N2CCC(CC2)(O)C2=C(C=CC=C2)O)C=C1 | C18H18BrNO3
reactant | potassium carbonate | 8.68 mmol, 1.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | ethylα-bromoisobutyrate | 20.5 ml, 4.00 g | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | ethyl 3-{1-(4-bromobenzoyl)-4-hydroxypiperidin-4-yl}α,α-dimethylphenoxyacetate | 902 mg, 86.4% | BrC1=CC=C(C(=O)N2CCC(CC2)(O)C=2C=C(OC(C(=O)OCC)(C)C)C=CC2)C=C1 | C24H28BrNO5
